US08486970B2
To a solution of 1.63 g of ethyl(3RS,4RS)-2-[(1SR,2SR)-2-{[(3-chloropropyl)sulfonyl]amino}cyclohexyl]-3-(2,4-dichlorophenyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxylate in 20 ml of THF was added 142 mg of sodium hydride, followed by stirring at 50° C. overnight. Ethyl acetate and water were added thereto to carry out a liquid separation operation. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate) to obtain 466 mg of ethyl(3RS,4RS)-3-(2,4-dichlorophenyl)-2-[(1SR,2SR)-2-(1,1-dioxidoisothiazolidin-2-yl)cyclohexyl]-1-oxo-tetrahydroisoquinoline-4-carboxylate as a colorless crystal.

reactant | ethyl(3RS,4RS)-2-[(1SR,2SR)-2-{[(3-chloropropyl)sulfonyl]amino}cyclohexyl]-3-(2,4-dichlorophenyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxylate | 1.63 g | ClCCCS(=O)(=O)NC1C(CCCC1)N1C(C2=CC=CC=C2C(C1C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC)=O | C27H31Cl3N2O5S
reactant | sodium hydride | 142 mg | [H-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | ethyl(3RS,4RS)-3-(2,4-dichlorophenyl)-2-[(1SR,2SR)-2-(1,1-dioxidoisothiazolidin-2-yl)cyclohexyl]-1-oxo-tetrahydroisoquinoline-4-carboxylate | 466 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CCC2C1C(=O)OCC)=O)C1C(CCCC1)N1S(CCC1)(=O)=O | C27H32Cl2N2O5S
